US08124807B2
(1) Production of methyl (1S*,3R*)-3-[(methylsulfonyl)oxy]cyclohexanecarboxylate
With cooling with ice, triethylamine (1.51 mL, 10.84 mol) and mesyl chloride (0.643 mL, 8.13 mmol) were added in that order to an ethyl acetate (10 mL) solution of a compound, methyl (1S*,3R*)-3-hydroxycyclohexanecarboxylic acid (857 mg, 5.42 mmol) known in a reference (Tetrahedron, 2003, Vol. 59, pp. 7465-7471), and then stirred at room temperature for 1 hour. The reaction solution was kept under cooling with ice for while, and then the reaction liquid was filtered. The resulting filtrate was concentrated under reduced pressure to give the intended product (1.18 g, 92%).

reactant | triethylamine | 10.84 mol, 1.51 mL | C(C)N(CC)CC | C6H15N
reactant | mesyl chloride | 8.13 mmol, 0.643 mL | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | methyl (1S*,3R*)-3-hydroxycyclohexanecarboxylic acid | 5.42 mmol, 857 mg | C[C@]1(C[C@@H](CCC1)O)C(=O)O | C8H14O3
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | methyl (1S*,3R*)-3-[(methylsulfonyl)oxy]cyclohexanecarboxylate | 1.18 g, 92% | CS(=O)(=O)O[C@H]1C[C@H](CCC1)C(=O)OC | C9H16O5S
